* C:\users\martin\Escritorio\2024\githubTC2\TC2\TS2.asc
R1 N001 Vi 0.05
R2 N007 N001 0.7071067812
R3 N008 N007 1
C1 N007 N001 1
XU1 N001 0 N007 opamp Aol=100K GBW=10Meg
XU2 N008 0 Vo opamp Aol=100K GBW=10Meg
XU3 N004 0 N003 opamp Aol=100K GBW=10Meg
C2 N003 N008 1
R4 N004 N003 1
R5 Vo N004 1
R6 Vo N001 1
V1 Vi 0 0 AC 1
R7 N002 Vi 1
R8 N009 N002 0.7071067812
R9 N010 N009 1
C3 N009 N002 1
XU4 N002 0 N009 opamp Aol=100K GBW=10Meg
XU5 N010 0 Vo opamp Aol=100K GBW=10Meg
XU6 N006 0 N005 opamp Aol=100K GBW=10Meg
C4 N005 N010 1
R10 N006 N005 1
R11 Vo N006 1
R12 Vo N002 1
.ac lin 100000 1m 1meg
.inc opamp.sub
.backanno
.end
